US04152441
B. Preparation of α,α-bis(p-tert.-butylphenyl)imidazole-2-methanol.
This compound was prepared by the procedure indicated in Example XXII B using 8 g. (0.02 mol) of α,α-bis(p-tert.-butylphenyl)-1-vinylimidazole-2-methanol, 250 ml. of 4% potassium permanganate solution and 3.3 g. of solid potassium permanganate (total permanganate 0.08 mol). After removal of manganese dioxide and excess permanganate, the organic solvents were distilled off and the remaining liquid was poured into water. A precipitate was formed, which was filtered off and crystallised from a mixture of isopropyl alcohol and petroleum ether (boiling range 28°-40° C.). Melting point 215°-216° C.

reactant | α,α-bis(p-tert.-butylphenyl)-1-vinylimidazole-2-methanol | 0.02 mol | C(C)(C)(C)C1=CC=C(C=C1)C(O)(C=1N(C=CN1)C=C)C1=CC=C(C=C1)C(C)(C)C | C26H32N2O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.08 mol | [Mn](=O)(=O)(=O)[O-].[K+]
product | α,α-bis(p-tert.-butylphenyl)imidazole-2-methanol | C(C)(C)(C)C1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=C(C=C1)C(C)(C)C | C24H30N2O
